US04559354
24.3 g of crude 1-[N-benzyl-[2-(3-carbamoyl-4-hydroxyphenoxy)-ethylamino]]-3-[4-(1-methyl-3-methylsulphonyl-1H-1,2,4-triazol-5-yl)-phenoxy]-2-propanol are catalytically debenzylated analogously to Example (4) and for working up, the crystalline precipitate is dissolved in dioxan by heating. Recrystallisation from methanol/dioxan yields 1-[2-(3-carbamoyl-4-hydroxyphenoxy)-ethylamino]-3-[4-(1-methyl-3-methylsulphonyl-1H-1,2,4-triazol-5-yl)-phenoxy]-2-propanol having a melting point of 190°-191°.

reactant | 1-[N-benzyl-[2-(3-carbamoyl-4-hydroxyphenoxy)-ethylamino]]-3-[4-(1-methyl-3-methylsulphonyl-1H-1,2,4-triazol-5-yl)-phenoxy]-2-propanol | 24.3 g | C(C1=CC=CC=C1)N(CC(COC1=CC=C(C=C1)C1=NC(=NN1C)S(=O)(=O)C)O)CCOC1=CC(=C(C=C1)O)C(N)=O | C29H33N5O7S
solvent | dioxan | O1CCOCC1 | C4H8O2
product | 1-[2-(3-carbamoyl-4-hydroxyphenoxy)-ethylamino]-3-[4-(1-methyl-3-methylsulphonyl-1H-1,2,4-triazol-5-yl)-phenoxy]-2-propanol | C(N)(=O)C=1C=C(OCCNCC(COC2=CC=C(C=C2)C2=NC(=NN2C)S(=O)(=O)C)O)C=CC1O | C22H27N5O7S
